US05679694
Ethyl 2-azido-3-fluoren-2-ylacrylate
Sodium (1.7 eq) was added to absolute ethanol stirred under nitrogen at room temperature. When dissolution was complete the reaction was cooled to -10° C. and fluorene-2-carboxaldehyde (1 eq) and ethyl azidoacetate (3 eq) dissolved together in the minimum of tetrahydrofuran were added dropwise. The mixture was stirred at -10° C. for 20 h and then quenched by the addition of water and dichloromethane. The combined organic extracts were dried (MgSO4) and evaporated in vacuo. Flash chromatography yielded the pure product (37%) νmax (CHCl3)cm-1 2120 and 1765.

reactant | Sodium | 1.7 eq | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | fluorene-2-carboxaldehyde | 1 eq | C1=C(C=CC=2C3=CC=CC=C3CC12)C=O | C14H10O
reactant | ethyl azidoacetate | 3 eq | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 2-azido-3-fluoren-2-ylacrylate | 37% | N(=[N+]=[N-])C(C(=O)OCC)=CC1=CC=2CC3=CC=CC=C3C2C=C1 | C18H15N3O2
